US04201854
A solution of N,N-dimethyl-N'-isobutylidene-1,3-diaminopropane in benzene is prepared by reacting 92 g of 3-dimethylamino-1-propylamine with 65 g of isobutyraldehyde in 200 ml of benzene by separating off the water of reaction azeotropically. This solution is hydrogenated in an autoclave at 90° C. and 125 atmospheres in the presence of 14 g of Raney nickel. Working up by distillation yields 95.6 g of pure product with a boiling point of 75° C./14 mm Hg.

reactant | 3-dimethylamino-1-propylamine | 92 g | CN(CCCN)C | C5H14N2
reactant | isobutyraldehyde | 65 g | C(C(C)C)=O | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
catalyst | Raney nickel | 14 g | [Ni] | Ni
product | N,N-dimethyl-N'-isobutylidene-1,3-diaminopropane | CN(CCCN=CC(C)C)C | C9H20N2
